US04962203
STEP 1. Preparation of (E)-3-(2-(7-chloroquinolin-2-yl)ethenyl)anisole
7.1 mL of 3-methoxybenzaldehyde (58 mmoles), 9.953 g of 7-chloroquinaldine (56 mmoles) and 50 mL of acetic anhydride were mixed together and heated at 110° C. for 16 hours. After hydrolysis on ice, the product was extracted with ethyl acetate, washed with 5% sodium bicarbonate and brine and partially purified by flash chromatography using 10% ethyl acetate in hexane. Recrystallisation from ether: hexane yielded the title compound.

reactant | 3-methoxybenzaldehyde | 58 mmoles, 7.1 mL | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | 7-chloroquinaldine | 56 mmoles, 9.953 g | ClC1=CC=C2C=CC(=NC2=C1)C | C10H8ClN
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-3-(2-(7-chloroquinolin-2-yl)ethenyl)anisole | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(C=CC1)OC | C18H14ClNO
